### PR TITLE
Quasigroups

### PR DESCRIPTION
**Pull request by djspacewhale**
Introducing a new folder that, so far, defines quasigroups and loops (unital quasigroups).

### CODE REVIEW

File: src/quasigroups/quasigroups.lagda.md [hunk 1]
```diff
@@ -0,0 +1,207 @@
...
+
+{{#concept "Quasigroups" Agda=Quasigroup}} are [sets](foundation-core.sets.md) -
+say, `Q` - equipped with three binary operations - say, `*`, `/`, `\` - such
+that for `x y : type-Set Q`, the following hold:
+
+```text
+  y ＝ (y r/ x) * x
+  y ＝ (y * x) r/ x
+  y ＝ x * (x l/ y)
+  y ＝ x l/ (x * y)
```
Comment (fredrik-bakke) [inline src/quasigroups/quasigroups.lagda.md:30]: You haven't defined what the symbols `r/` and `l/` mean. Are these supposed to be `/` and `\`?

File: src/quasigroups.lagda.md
Comment (fredrik-bakke) [inline src/quasigroups.lagda.md:1]: The justification for creating a new namespace for quasigroups is unclear to me. Why do you not wish to put this in `group-theory`? Notice that we also have semigroups and monoids in `group-theory`. I must admit I'm not familiar with the theory of quasigroups, is the nature of the theory very different from `group-theory`? Given its name, I would guess not, and then it might be appropriate to have it in `group-theory`.

File: src/quasigroups/loops.lagda.md [hunk 2]
```diff
@@ -0,0 +1,220 @@
...
+  e * x ＝ x
+  x * e ＝ x
+```
+
+Note: we will see that units, when they exist, are unique, and so being a loop
+is actually a property of a quasigroup rather than structure.
+
+## Definitions
+
+### Left units in quasigroups
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:46]: Units should have a separate file `units-quasigroups`

File: src/quasigroups/loops.lagda.md [hunk 3]
```diff
@@ -0,0 +1,220 @@
...
+
+  private
+    _*_ : type-Quasigroup Q → type-Quasigroup Q → type-Quasigroup Q
+    _*_ = mul-Quasigroup Q
+
+    _l/_ : type-Quasigroup Q → type-Quasigroup Q → type-Quasigroup Q
+    _l/_ = left-div-Quasigroup Q
+
+    _r/_ : type-Quasigroup Q → type-Quasigroup Q → type-Quasigroup Q
+    _r/_ = right-div-Quasigroup Q
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:61]: Private definitions are against our conventions. But... since we're discussing changes to our syntax conventions currently, maybe I can use you as a test dummy? I have an idea for how we might go about having operators like these in the library

File: src/quasigroups/quasigroups.lagda.md [hunk 4]
```diff
@@ -0,0 +1,207 @@
...
+```
+
+Roughly speaking, quasigroups are nonassociative semigroups, and in fact groups
+are just pointed associative quasigroups.
+
+## Definitions
+
+### Left and right quasigroups
+
+#### Left quasigroups
```
Comment (fredrik-bakke) [inline src/quasigroups/quasigroups.lagda.md:40]: Left quasigroups can have their own file

File: src/quasigroups/quasigroups.lagda.md [hunk 5]
```diff
@@ -0,0 +1,207 @@
...
+
+left-Quasigroup : (l : Level) → UU (lsuc l)
+left-Quasigroup l =
+  Σ (Set l) λ Q → Σ (type-Set Q → type-Set Q → type-Set Q)
+  (λ mul → Σ (type-Set Q → type-Set Q → type-Set Q) (λ left-div →
+  is-left-cancellative-left-div Q mul left-div ×
+  is-right-cancellative-left-div Q mul left-div))
+```
+
+#### Right quasigroups
```
Comment (fredrik-bakke) [inline src/quasigroups/quasigroups.lagda.md:93]: Right quasigroups can have their own file

File: src/quasigroups/quasigroups.lagda.md [hunk 6]
```diff
@@ -0,0 +1,207 @@
...
+  is-left-cancellative-right-div-Quasigroup =
+    pr1 (pr2 (pr2 (pr2 (pr2 (pr2 Q)))))
+
+  is-right-cancellative-right-div-Quasigroup :
+    is-right-cancellative-right-div set-Quasigroup
+    mul-Quasigroup right-div-Quasigroup
+  is-right-cancellative-right-div-Quasigroup =
+    pr2 (pr2 (pr2 (pr2 (pr2 (pr2 Q)))))
+```
+
```
Comment (fredrik-bakke) [inline src/quasigroups/quasigroups.lagda.md:204]: If you add the below module, then you can "`open`" the syntax elsewhere using `open operator-syntax-Quasigroup Q`, to access these operators for your chosen quasigroup `Q`, instead of using private definitions as you do currently.

````suggestion
```

### Quasigroup operator syntax

```agda
module
  operator-syntax-Quasigroup
  {l : Level} (Q : Quasigroup l)
  where

  _*_ : type-Quasigroup Q → type-Quasigroup Q → type-Quasigroup Q
  _*_ = mul-Quasigroup Q

  _l/_ : type-Quasigroup Q → type-Quasigroup Q → type-Quasigroup Q
  _l/_ = left-div-Quasigroup Q

  _r/_ : type-Quasigroup Q → type-Quasigroup Q → type-Quasigroup Q
  _r/_ = right-div-Quasigroup Q
```

````

Comment (fredrik-bakke) [reply src/quasigroups/quasigroups.lagda.md:204]: We could also consider using the [division slash](https://codepoints.net/U+2215) `∕` and [reverse solidus operator](https://codepoints.net/U+29F5) `⧵` unicode characters for left and right division respectively. These are supposed to be mirrored characters, and semantically they're the right symbols. There's no agda-input sequence for them though, so this requires adding them to our list of special characters. Might still be worth considering though.

File: src/quasigroups/loops.lagda.md [hunk 7]
```diff
@@ -0,0 +1,220 @@
...
+
+  term-has-left-unit-Quasigroup : has-left-unit-Quasigroup → type-Quasigroup Q
+  term-has-left-unit-Quasigroup (e , _) = e
+
+  left-units-agree-Quasigroup :
+    (e f : has-left-unit-Quasigroup) → term-has-left-unit-Quasigroup e
+    ＝ term-has-left-unit-Quasigroup f
+  left-units-agree-Quasigroup (e , e-left-unit) (f , f-left-unit) =
+    equational-reasoning
+    e ＝ (e * f) r/ f
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:87]:
```suggestion
    e
    ＝ (e * f) r/ f
```

File: src/quasigroups/loops.lagda.md [hunk 8]
```diff
@@ -0,0 +1,220 @@
...
+
+open import quasigroups.quasigroups
+```
+
+</details>
+
+## Idea
+
+{{#concept "Loops" Agda=Loop}} are [quasigroups](quasigroups.quasigroups.md)
+with a designated identity element, that is, `e : type-Quasigroup Q` such that
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:33]:
```suggestion
with a designated identity element, that is, an element `e : Q` such that
```

File: src/quasigroups/loops.lagda.md [hunk 9]
```diff
@@ -0,0 +1,220 @@
...
+      by ap (λ x → x r/ f) (e-left-unit f)
+    ＝ (f * f) r/ f
+      by ap (λ x → x r/ f) (inv (f-left-unit f))
+    ＝ f
+      by inv (is-right-cancellative-right-div-Quasigroup Q f f)
+
+  is-prop-has-left-unit-Quasigroup : is-prop has-left-unit-Quasigroup
+  pr1 (is-prop-has-left-unit-Quasigroup e f) =
+    eq-type-subtype is-left-unit-Quasigroup-Prop
+    (left-units-agree-Quasigroup e f)
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:99]: When the arguments don't fit on a single line, we break the line at the earliest possible point, and place every new argument on a new line. Here

```suggestion
    eq-type-subtype
      ( is-left-unit-Quasigroup-Prop)
      ( left-units-agree-Quasigroup e f)
```

File: src/quasigroups/loops.lagda.md [hunk 10]
```diff
@@ -0,0 +1,220 @@
...
+  pr2 (is-prop-has-left-unit-Quasigroup e f) p =
+    is-set-has-uip (is-set-type-subtype is-left-unit-Quasigroup-Prop
+    (is-set-Quasigroup Q)) e f (pr1 (is-prop-has-left-unit-Quasigroup e f)) p
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:102]:
```suggestion
  pr2 (is-prop-has-left-unit-Quasigroup e f) =
    is-set-has-uip 
      ( is-set-type-subtype is-left-unit-Quasigroup-Prop
        ( is-set-Quasigroup Q)) 
      ( e)
      ( f)
      ( pr1 (is-prop-has-left-unit-Quasigroup e f))
```

File: src/quasigroups/loops.lagda.md [hunk 11]
```diff
@@ -0,0 +1,220 @@
...
+
+  term-has-right-unit-Quasigroup : has-right-unit-Quasigroup → type-Quasigroup Q
+  term-has-right-unit-Quasigroup (e , _) = e
+
+  right-units-agree-Quasigroup :
+    (e f : has-right-unit-Quasigroup) → term-has-right-unit-Quasigroup e
+    ＝ term-has-right-unit-Quasigroup f
+  right-units-agree-Quasigroup (e , e-right-unit) (f , f-right-unit) =
+    equational-reasoning
+    e ＝ f l/ (f * e)
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:132]:
```suggestion
    e
    ＝ f l/ (f * e)
```

File: src/quasigroups/loops.lagda.md [hunk 12]
```diff
@@ -0,0 +1,220 @@
...
+      by ap (λ x → f l/ x) (e-right-unit f)
+    ＝ f l/ (f * f)
+      by inv ((ap (λ x → f l/ x) (f-right-unit f)))
+    ＝ f
+      by inv (is-right-cancellative-left-div-Quasigroup Q f f)
+
+  is-prop-has-right-unit-Quasigroup : is-prop has-right-unit-Quasigroup
+  pr1 (is-prop-has-right-unit-Quasigroup e f) =
+    eq-type-subtype is-right-unit-Quasigroup-Prop
+    (right-units-agree-Quasigroup e f)
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:144]:
```suggestion
    eq-type-subtype
      ( is-right-unit-Quasigroup-Prop)
      ( right-units-agree-Quasigroup e f)
```

File: src/quasigroups/loops.lagda.md [hunk 13]
```diff
@@ -0,0 +1,220 @@
...
+  pr2 (is-prop-has-right-unit-Quasigroup e f) p =
+    is-set-has-uip (is-set-type-subtype is-right-unit-Quasigroup-Prop
+    (is-set-Quasigroup Q)) e f (pr1 (is-prop-has-right-unit-Quasigroup e f)) p
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:147]:
```suggestion
  pr2 (is-prop-has-right-unit-Quasigroup e f) =
    is-set-has-uip
      ( is-set-type-subtype is-right-unit-Quasigroup-Prop
        ( is-set-Quasigroup Q))
      ( e)
      ( f)
      ( pr1 (is-prop-has-right-unit-Quasigroup e f))
```

File: src/quasigroups/loops.lagda.md [hunk 14]
```diff
@@ -0,0 +1,220 @@
...
+
+A **unit**, as usual, is both a left and right unit. In fact, if `Q` has both a
+left unit `e` and a right unit `f`, then already we have `e ＝ f`, and thus the
+type of units is equivalent to the type of pairs of left and right units.
+
+```agda
+  has-unit-Quasigroup : UU l
+  has-unit-Quasigroup =
+    Σ (type-Quasigroup Q)
+    λ e → is-left-unit-Quasigroup e × is-right-unit-Quasigroup e
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:160]:
```suggestion
    Σ ( type-Quasigroup Q)
      ( λ e → is-left-unit-Quasigroup e × is-right-unit-Quasigroup e)
```

File: src/quasigroups/loops.lagda.md [hunk 15]
```diff
@@ -0,0 +1,220 @@
...
+
+  unit-has-unit-Quasigroup : has-unit-Quasigroup → type-Quasigroup Q
+  unit-has-unit-Quasigroup (e , _) = e
+
+  has-unit-has-left-unit-Quasigroup :
+    has-unit-Quasigroup → has-left-unit-Quasigroup
+  has-unit-has-left-unit-Quasigroup (e , e-left-unit , _) = e , e-left-unit
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:167]:
```suggestion
  has-unit-has-left-unit-Quasigroup (e , e-left-unit , _) = (e , e-left-unit)
```

File: src/quasigroups/loops.lagda.md [hunk 16]
```diff
@@ -0,0 +1,220 @@
...
+
+  has-unit-has-right-unit-Quasigroup :
+    has-unit-Quasigroup → has-right-unit-Quasigroup
+  has-unit-has-right-unit-Quasigroup (e , _ , e-right-unit) = e , e-right-unit
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:171]:
```suggestion
  has-unit-has-right-unit-Quasigroup (e , _ , e-right-unit) = (e , e-right-unit)
```

File: src/quasigroups/loops.lagda.md [hunk 17]
```diff
@@ -0,0 +1,220 @@
...
+
+  has-unit-has-left-and-right-units-Quasigroup :
+    has-unit-Quasigroup → has-left-unit-Quasigroup × has-right-unit-Quasigroup
+  has-unit-has-left-and-right-units-Quasigroup e =
+    (has-unit-has-left-unit-Quasigroup e) ,
+    (has-unit-has-right-unit-Quasigroup e)
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:177]:
```suggestion
    ( has-unit-has-left-unit-Quasigroup e) ,
    ( has-unit-has-right-unit-Quasigroup e)
```

File: src/quasigroups/loops.lagda.md [hunk 18]
```diff
@@ -0,0 +1,220 @@
...
+
+  has-unit-has-left-unit-Quasigroup :
+    has-unit-Quasigroup → has-left-unit-Quasigroup
+  has-unit-has-left-unit-Quasigroup (e , e-left-unit , _) = e , e-left-unit
+
+  has-unit-has-right-unit-Quasigroup :
+    has-unit-Quasigroup → has-right-unit-Quasigroup
+  has-unit-has-right-unit-Quasigroup (e , _ , e-right-unit) = e , e-right-unit
+
+  has-unit-has-left-and-right-units-Quasigroup :
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:173]: The conclusion of this theorem is that it has left and right units, so that should be the first thing that is mentioned in the name. I.e., this should be called `has-left-and-right-units-has-unit-Quasigroup`

File: src/quasigroups/loops.lagda.md [hunk 19]
```diff
@@ -0,0 +1,220 @@
...
+  has-unit-has-left-and-right-units-Quasigroup e =
+    (has-unit-has-left-unit-Quasigroup e) ,
+    (has-unit-has-right-unit-Quasigroup e)
+
+  left-and-right-units-agree-Quasigroup :
+    (e : has-left-unit-Quasigroup) → (f : has-right-unit-Quasigroup) →
+    term-has-left-unit-Quasigroup e ＝ term-has-right-unit-Quasigroup f
+  left-and-right-units-agree-Quasigroup (e , e-left-unit) (f , f-right-unit) =
+    equational-reasoning
+    e ＝ (e * f) r/ f
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:184]:
```suggestion
    e
    ＝ (e * f) r/ f
```

File: src/quasigroups/loops.lagda.md [hunk 20]
```diff
@@ -0,0 +1,220 @@
...
+      by is-right-cancellative-right-div-Quasigroup Q f e
+    ＝ f r/ f
+      by ap (λ x → x r/ f) (e-left-unit f)
+    ＝ (f * f) r/ f
+      by inv (ap (λ x → x r/ f) (f-right-unit f))
+    ＝ f
+      by inv (is-right-cancellative-right-div-Quasigroup Q f f)
+
+  has-left-and-right-units-is-left-unit-is-right-unit :
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:193]: `is-right-unit-has-left-unit-Quasigroup` may be a good name for this one.

File: src/quasigroups/loops.lagda.md [hunk 21]
```diff
@@ -0,0 +1,220 @@
...
+    (e : has-left-unit-Quasigroup) → has-right-unit-Quasigroup →
+    is-right-unit-Quasigroup (term-has-left-unit-Quasigroup e)
+  has-left-and-right-units-is-left-unit-is-right-unit e f x =
+    inv-tr is-right-unit-Quasigroup (left-and-right-units-agree-Quasigroup e f)
+    (pr2 f) x
+
+  has-left-and-right-units-has-unit-Quasigroup :
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:200]: `has-unit-has-right-unit-has-left-unit-Quasigroup`

Notice the order

File: src/quasigroups/loops.lagda.md [hunk 22]
```diff
@@ -0,0 +1,220 @@
...
+
+  is-left-unit-Quasigroup-Prop : (e : type-Quasigroup Q) → Prop l
+  is-left-unit-Quasigroup-Prop e =
+    is-left-unit-Quasigroup e , is-prop-is-left-unit-Quasigroup e
+
+  has-left-unit-Quasigroup : UU l
+  has-left-unit-Quasigroup =
+    Σ (type-Quasigroup Q) λ e → is-left-unit-Quasigroup e
+
+  term-has-left-unit-Quasigroup : has-left-unit-Quasigroup → type-Quasigroup Q
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:79]: We prefer the word `element` over `term`. This projection should therefore be called `element-has-left-unit-Quasigroup`

File: src/quasigroups/loops.lagda.md [hunk 23]
```diff
@@ -0,0 +1,220 @@
...
+
+  is-right-unit-Quasigroup-Prop : (e : type-Quasigroup Q) → Prop l
+  is-right-unit-Quasigroup-Prop e =
+    is-right-unit-Quasigroup e , is-prop-is-right-unit-Quasigroup e
+
+  has-right-unit-Quasigroup : UU l
+  has-right-unit-Quasigroup =
+    Σ (type-Quasigroup Q) λ e → is-right-unit-Quasigroup e
+
+  term-has-right-unit-Quasigroup : has-right-unit-Quasigroup → type-Quasigroup Q
```
Comment (fredrik-bakke) [inline src/quasigroups/loops.lagda.md:124]: We prefer the term `element` over `term`. This projection should therefore be called `element-has-right-unit-Quasigroup`

File: src/quasigroups/quasigroups.lagda.md (hunk 1 above)
Comment (djspacewhale) [reply src/quasigroups/quasigroups.lagda.md:30]: I changed the notation from `/ \` to `r/ l/` as the standard forward-slash is apparently reserved for lambda expressions. I see later down you suggest introducing a different Unicode representative so I think this can broadly pend that.

File: src/quasigroups.lagda.md
Comment (djspacewhale) [reply src/quasigroups.lagda.md:1]: Truthfully I'm approaching this formalization of quasigroups as a way to learn about them, so I'm not an expert on the broad theory. Including them in the `group-theory` namespace could make sense - groups are simply unital associative quasigroups, anyways - but the applications seem rather different; say, finite quasigroups classically correspond to (isotopy types of) latin squares, and their representation theory is much subtler. 

I don't want to step on toes too aggressively being a new contributor but the current namespace convention is a tad frustrating for me. Finding definitions is easier using the website and its search bar, but searching monolithic namespaces by hand is not as elegant as, say, using a hierarchy of namespaces a la cubical. I did think about creating a subnamespace `group-theory/quasigroups` but as this convention does not exist currently I held off. Has this (re)organization been discussed before?

Comment (EgbertRijke) [reply src/quasigroups.lagda.md:1]: @djspacewhale, that is totally fine. I don't think you are stepping on anyone's toes, and your contribution is most welcome! Learning and formalizing at the same time is a great strategy to really get to the bottom of a subject, I use that strategy too. To that end, would you be willing to cite standard references for you definitions, such as

Pflugfelder. Quasigroups and Loops: Introduction?

We have a `references.bib` file in the root folder and there are guidelines about how to include a bibliography at the end of a file. The situation could be improved by now, but it used to be the case that the definition of quasigroups and semigroups was wrong on wikipedia, so it is important to follow a standard reference.

I also think developing quasigroups in the group theory folder could make sense, because some definitions and results about quasigroups will be more general and it would be a natural setting for comparing the two developments. On the other hand, I do understand why you initially chose to create a setup in a separate namespace: The nonassociative case is actually quite different and the `group-theory` name space is quite large, containing many different concepts.

We are aware of the organizational conventions of the cubical library, and other libraries as well, and we have deliberately chosen our current library organization. I personally find other library organizations a bit chaotic, and the one-concept-per-file principle is the cleanest in my view. It is also good to keep in mind that the choices for a library organization are tied to the purpose of the library: In cubical the goal is to facilitate formalization related to current research, which agda-unimath also hopes to facilitate, but agda-unimath has an important secondary purpose, which is to develop an informative resource where ultimately the library webpage could serve as a nlab-style website where you can find precise definitions and infomation about how concepts are interrelated. From that point of view, an organization with `concept.base` and `concept.properties` modules where `concept.properties` becomes a dumping place for all sorts of properties is not helping us at all, and what would be in `concept.base` in cubical could often be spread out over several pages in agda-unimath, each its own concept.

I hope this explanation helps!

Comment (djspacewhale) [reply src/quasigroups.lagda.md:1]: I actually don't have a reference text and have been formalizing roughly what's on Wikipedia and the nlab, cross-referenced with arxiv papers that arise in searches. I'll look for that text though. It's of course not the morally healthiest approach, and I'm no longer a student so sourcing texts may be a bit harder, but I'll find a better primary source!

I also appreciate agda-unimath's goal of being a readable informative source and this knowledge-for-the-people element is one reason I chose to contribute here rather than, say, cubical (long-term I'm also interested in modal type theory and applications to synthetic math, a project that appears at technical odds with cubical). My thought was less around, say, having one `groups.base` defining everything to do with groups, but more around using subfolders to consolidate "subareas" of knowledge, say, putting abelian stuff in `group-theory/abelian-groups/` and so on. That said, I'll respect how the library is currently organized, and Fredrik's notes about separating e.g. left/right quasigroups into their own files is a good note for following the one-concept-per-file principle that I'll incorporate.

File: .gitignore [hunk 24]
```diff
@@ -432,3 +432,6 @@ MAINTAINERS.md
 /website/css/Agda-highlight.css
 /website/images/agda_dependency_graph.svg
 /website/images/agda_dependency_graph_legend.html
+
+# vscode settings
+settings.json
```
Comment (VojtechStep) [inline .gitignore:437]: The library is distributed with recommended VSCode settings, so they are intentionally not ignored

File: src/foundation/decidable-equality.lagda.md [hunk 25]
```diff
@@ -217,6 +218,24 @@ module _
         ( λ x y → eq-Eq-has-decidable-equality d)
 ```
 
+### The [decidable proposition](foundation-core.decidable-propositions.md) of equality in a type with decidable equality
```
Comment (VojtechStep) [inline src/foundation/decidable-equality.lagda.md]: FYI headings get turned into links in the HTML backend, so they may not have links inside. If you want to add links, you can add a paragraph of prose

**Review by VojtechStep — COMMENTED** [review]
I'm not reviewing this yet, those are just drive-by comments

File: src/foundation/decidable-equality.lagda.md (hunk 25 above)
Comment (djspacewhale) [reply src/foundation/decidable-equality.lagda.md]: Heard and edited.
